US04363808
A mixture of 15.8 grams of 1H-benzimidazole, 8 grams of acrylonitrile and 0.2 ml of benzyltrimethylammonium hydroxide (40% solution in methanol) in 200 ml of dioxane was stirred at room temperature for 24 hours. The solvent was evaporated from the resulting yellow solution under reduced pressure and the residual yellow solid was triturated first with ether and then with water to give 1H-benzimidazole-1-propionitrile melting at about 108°-110° C.

reactant | 1H-benzimidazole | 15.8 grams | N1C=NC2=C1C=CC=C2 | C7H6N2
reactant | acrylonitrile | 8 grams | C(C=C)#N | C3H3N
reactant | benzyltrimethylammonium hydroxide | 0.2 ml | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 1H-benzimidazole-1-propionitrile | N1(C=NC2=C1C=CC=C2)CCC#N | C10H9N3
